US04031232
15.7 Grams (0.1 mole) of 1-methyl-2-hydroxymethyl-5-nitro-imidazole and 21.0 g (0.1 mole) of 2-nitro-4-trifluoromethylfluoro-benzene dissolved in 100 ml of butanone-2 were mixed with 15 g of triethylamine and were heated for 2 hours on a steam bath. The crystals obtained when the solution had been cooled were suction-filtered, were washed with water and were recrystallized from a little isopropanol, while adding charcoal. As a result, 25 g (= 72% of the theory) of 1-methyl-2-(4-trifluoromethyl-2-nitrophenoxymethyl)-5-nitro-imidazole were obtained in the form of yellowish crystals having a melting point of 126° C.

reactant | 1-methyl-2-hydroxymethyl-5-nitro-imidazole | 0.1 mole | CN1C(=NC=C1[N+](=O)[O-])CO | C5H7N3O3
reactant | 2-nitro-4-trifluoromethylfluoro-benzene | 0.1 mole, 21.0 g | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)F | C7H3F4NO2
solvent | triethylamine | 15 g | C(C)N(CC)CC | C6H15N
product | 1-methyl-2-(4-trifluoromethyl-2-nitrophenoxymethyl)-5-nitro-imidazole | CN1C(=NC=C1[N+](=O)[O-])COC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C12H9F3N4O5
